US05362733
4-[(3,4-Dihydroxy-5-cyanophenyl)methylidene]-2 -thioxoimidazolidin-5-one
A solution containing 0.58 g of thiohydantoin, 0.82 g of 3,4-dihydroxy-5-cyanobenzaldehyde and 0.1 ml of piperidine in 10 ml of acetic acid was heated for 4 h at 100° C. The product was filtered and washed with ether. Yield 0.51 g, mp 210°-213° C.

reactant | thiohydantoin | 0.58 g | N1C(=S)NC(=O)C1 | C3H4N2OS
reactant | 3,4-dihydroxy-5-cyanobenzaldehyde | 0.82 g | OC=1C=C(C=O)C=C(C1O)C#N | C8H5NO3
reactant | piperidine | 0.1 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-[(3,4-Dihydroxy-5-cyanophenyl)methylidene]-2 -thioxoimidazolidin-5-one | OC=1C=C(C=C(C1O)C#N)C=C1NC(NC1=O)=S | C11H7N3O3S
